US09126950B2
In a 50 mL 3-neck RBF equipped with a magnetic stirrer, calcium chloride guard tube and thermo pocket was charged 5-((4-((3-aminophenyl)amino)-5-fluoropyrimidin-2-yl)amino)-2-(2-methoxyethoxy)phenol (0.17 g in 5 mL DCM) and cooled to −30° C. To the reaction mixture was slowly added acryloyl chloride solution in DCM (0.043 g in 5.0 mL DCM) and reaction mixture was stirred at −30° C. for 30 to 40 minutes. The reaction was monitored on TLC using benzene: acetone (8.5:1.5) as mobile phase. The reaction mixture was poured in water (100 mL) and basified using sodium bicarbonate. The solution was extracted with DCM (25 mL×2) and the combined organic layer was washed with 25 mL brine solution. The organic layer was dried over sodium sulfate and concentrated completely under reduce pressure at 40° C. Crude material was purified by preparative HPLC using 0.1% TFA in ACN and 0.1% TFA in water as mobile phase to give 23 mg of N-(3-((5-fluoro-2-((3-hydroxy-4-(2-methoxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenyl)acrylamide. M+1=439.3. 1H NMR: DMSO-d6 (400 MHz): 3.294 (s, 3H), 3.871-3.902 (t, 2H, J=6.0), 3.970-3.993 (t, 2H, J=4.4), 5.774-5.749 (d, 1H, J=10), 6.246-6.288 (d, 1H, J=16.8), 6.436-6.503 (m, 1H), 6.724-7.753 (d, 1H, J=11.6), 7.099 (s, 2H), 7.252-7.333 (m, 1H), 7.404-7.423 (d, 1H, J=7.6), 7.612-7.592 (d, 1H, J=8), 7.934 (s, 1H), 8.057-8.065 (d, 1H, J=3.2), 8.788 (s, 1H), 8.861 (s, 1H), 9.366 (s, 1H), 10.110 (s, 1H).

reactant | 5-((4-((3-aminophenyl)amino)-5-fluoropyrimidin-2-yl)amino)-2-(2-methoxyethoxy)phenol | 5 mL, 0.17 g | NC=1C=C(C=CC1)NC1=NC(=NC=C1F)NC=1C=CC(=C(C1)O)OCCOC | C19H20FN5O3
reactant | acryloyl chloride | C(C=C)(=O)Cl | C3H3ClO
reactant | benzene acetone | C1=CC=CC=C1.CC(=O)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | 5.0 mL, 0.043 g | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | N-(3-((5-fluoro-2-((3-hydroxy-4-(2-methoxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenyl)acrylamide | 23 mg | FC=1C(=NC(=NC1)NC1=CC(=C(C=C1)OCCOC)O)NC=1C=C(C=CC1)NC(C=C)=O | C22H22FN5O4
